US05403852
The procedure is as in Example 2, heating for 48 hours 2.4 g of 6-[4,5-bis(4-chlorophenyl)-2-oxazolyl]hexanenitrile, 1.2 g of sodium azide and 1 g of ammonium chloride in 45 cm3 of dimethylformamide. Sodium azide and ammonium chloride are added (in the same quantities as before) and the mixture is brought again to 105° C. for 48 hours. The reaction product is extracted as in the abovementioned example and crystallised in 80 cm3 of diisopropyl ether. 1.2 g of 5-{5-[4,5-bis(4-chlorophenyl)-2-oxazolyl]pentyl}tetrazole, white crystals, melting point 100° C., are obtained.

reactant | 6-[4,5-bis(4-chlorophenyl)-2-oxazolyl]hexanenitrile | 2.4 g | ClC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)Cl)CCCCCC#N | C21H18Cl2N2O
reactant | sodium azide | 1.2 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
solvent | dimethylformamide | 45 cm3 | CN(C=O)C | C3H7NO
product | 5-{5-[4,5-bis(4-chlorophenyl)-2-oxazolyl]pentyl}tetrazole | 1.2 g | ClC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)Cl)CCCCCC1=NN=NN1 | C21H19Cl2N5O
